US07291615B2
(26c). Preparation of tert-butyl 2-(hydroxymethyl)-4-(trifluoromethoxy)phenylcarbamate.
A magnetically stirred solution of tert-butyl 2-formyl-4-(trifluoromethoxy)phenylcarbamate (18.36 g, 60.14 mmol) in methanol (200 mL) was treated with sodium borohydride (2.3 g, 60.14 mmol), the mixture was quickly cooled in a dry ice/acetone bath, then allowed to warm to 0° C., and stirred for 1 h. The reaction was quenched with water (50 mL), the methanol was stripped, and the aqueous was extracted with diethyl ether (300 mL). The organic phase was washed successively with saturated ammonium chloride (2×100 mL), water (100 mL), and brine (100 mL), dried over sodium sulfate, and concentrated in-vacuo to a colorless solid, which was used as-is in the next step. 1H NMR (500 MHz, DMSO) δ ppm 1.46 (s, 9 H) 4.52 (d, J=5.50 Hz, 2 H) 5.55 (m, 1 H) 7.21 (d, J=8.80 Hz, 1 H) 7.34 (s, 1 H) 7.59 (d, J=8.25 Hz, 1 H) 8.68 (s, 1 H).

reactant | tert-butyl 2-formyl-4-(trifluoromethoxy)phenylcarbamate | 60.14 mmol, 18.36 g | C(=O)C1=C(C=CC(=C1)OC(F)(F)F)NC(OC(C)(C)C)=O | C13H14F3NO4
reactant | sodium borohydride | 60.14 mmol, 2.3 g | [BH4-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | tert-butyl 2-(hydroxymethyl)-4-(trifluoromethoxy)phenylcarbamate | OCC1=C(C=CC(=C1)OC(F)(F)F)NC(OC(C)(C)C)=O | C13H16F3NO4
